US07732626B2
3′-(hydroxymethyl)-2,3,5,6-tetramethylbiphenyl-4-ol
A solution of 4′-hydroxy-2′,3′,5′,6′-tetramethylbiphenyl-3-carbaldehyde (2.03 g, 8.00 mmol) in a mixed solvent of methanol (10 mL) and tetrahydrofuran (20 mL) was ice-cooled, sodium borohydride (90%, 0.336 g, 8.00 mmol) was added, and the mixture was stirred for 2 hr under nitrogen atmosphere. The reaction mixture was treated with diluted hydrochloric acid, and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained crystals were recrystallized from heptane-ethyl acetate to give the title compound (1.90 g, yield 93%) as colorless crystals. melting point 152-153° C.

reactant | 4′-hydroxy-2′,3′,5′,6′-tetramethylbiphenyl-3-carbaldehyde | 8.00 mmol, 2.03 g | OC1=C(C(=C(C(=C1C)C)C1=CC(=CC=C1)C=O)C)C | C17H18O2
reactant | methanol | 10 mL | CO | CH4O
reactant | sodium borohydride | 8.00 mmol, 0.336 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3′-(hydroxymethyl)-2,3,5,6-tetramethylbiphenyl-4-ol | 1.90 g, yield 93% | OCC=1C=C(C=CC1)C1=C(C(=C(C(=C1C)C)O)C)C | C17H20O2
